US08030337B2
N-{2-[2-(2-Phenylethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-3-phenylpropanamide (72.5 mg, 0.198 mmol) and pyridinium p-toluenesulfonate (12.4 mg, 0.0493 mmol) were heated under reflux in xylene (5 mL) for 2.5 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=30/70→60/40) and recrystallized (ethyl acetate/diisopropyl ether) to give the title compound (19.8 mg, yield 29%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-3-phenylpropanamide | 0.198 mmol, 72.5 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CCC1=CC=CC=C1)=O | C22H26N2O3
reactant | pyridinium p-toluenesulfonate | 0.0493 mmol, 12.4 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-{2-[2-(2-Phenylethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 19.8 mg, yield 29% | C1(=CC=CC=C1)CCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C22H24N2O2
